US06248743B1
To a solution of methyl magnesium iodide, which is prepared from magnesium (2.9 g) and methyl iodide (7.5 ml), in diethyl ether (150 ml) is added dropwise a solution of 4-cyclopentyloxy-3-methoxybenzaldehyde (17.6 g) in tetrahydrofuran (40 ml) at 0° C., and the mixture is stirred at room temperature for one hour. To the reaction mixture is added a saturated aqueous ammonium chloride solution (20 ml) at 0° C., and the mixture is extracted with ethyl acetate. The extract is concentrated under reduced pressure, and the residue is dissolved in acetonitrile (300 ml), and thereto is added manganese dioxide (55 g) at 0° C. The mixture is warmed to room temperature, and the mixture is stirred for three days. To the reaction mixture is added cerite (20 g), and the mixture is stirred for 30 minutes. The insoluble materials are removed by filtration, and the filtrate is concentrated under reduced pressure. The residue is crystallized from chilled hexane to give 4-acetyl-1-cyclopentyloxy-2-methoxybenzene (13.8 g).

reactant | methyl magnesium iodide | C[Mg]I
reactant | magnesium | 2.9 g | [Mg] | Mg
reactant | methyl iodide | 7.5 ml | CI | CH3I
reactant | 4-cyclopentyloxy-3-methoxybenzaldehyde | 17.6 g | C1(CCCC1)OC1=C(C=C(C=O)C=C1)OC | C13H16O3
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-acetyl-1-cyclopentyloxy-2-methoxybenzene | 13.8 g, Yield: 73.6% | C(C)(=O)C1=CC(=C(C=C1)OC1CCCC1)OC | C14H18O3
